US06392090B1
In a 200 ml four-necked flask were placed 49.53 g (0.240 mol) of 4-tert-octylphenol, 2.05 g (0.018 mol) of DMi and 40 g of xylene, and the solution was heated until reflux begun. Afterward, azeotropic dehydration was carried out, while 4.41 g (0:054 mol) of a 49 wt % aqueous NaOH solution was added dropwise over 5 hours. Next, 20 g of xylene was added dropwise, and the solution was allowed to mature under the reflux for 2 hours. It was confirmed that a stoichiometric amount of water was distilled. The reaction solution was put in a 300 ml autoclave, heated up to 130° C., and then allowed to absorb a carbon dioxide gas at 6 kg/cm2G, followed by maturation at the same temperature for 5 hours. In this case, a conversion was 86.7%/NaOH. The reaction solution was slowly cooled to 70° C., and then crystallized at 70° C. for 2 hours. The reaction solution was filtered at the same temperature, and then washed three times with 20 g of xylene to obtain wet sodium 5-tert-octylsalicylate. According to analysis, the recovery yield of sodium 5-tert-octylsalicylate was 85.3%/NaOH, and any DMi was not detected. It was confirmed that DMi was completely recovered in a filtrate and a wash liquid in the steps of the heating, the filtration and the washing. The wet product was dissolved in 54 g of water at 60° C., and an extraction operation was carried out twice with 18 g of xylene to obtain an aqueous layer. Xylene dissolved in this aqueous layer was distilled off under reduced pressure, and the aqueous layer was added dropwise to 49 g of a 6% sulfuric acid solution over 2 hours to crystallize. The resulting precipitate was filtered, and then washed 3 times with 12 g of water. Next, wet 5-tert-octylsalicylic acid was taken out, and then dried to obtain 11.52 g of 5 tert-octylsalicylic acid. In this case, a purity was 99.9% or more and a total recovery yield in terms of pure product from the raw material was 85.2%/NaOH.

reactant | 4-tert-octylphenol | 0.240 mol, 49.53 g | C(C)(C)(CC(C)(C)C)C1=CC=C(C=C1)O | C14H22O
reactant | xylene | 40 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | NaOH | [OH-].[Na+]
reactant | xylene | 20 g | C=1(C(=CC=CC1)C)C | C8H10
reactant | water | O | H2O
product | sodium 5-tert-octylsalicylate | C(C)(C)(CC(C)(C)C)C1=CC=C(C(C(=O)[O-])=C1)O.[Na+] | InChI=1S/C15H22O3.Na/c1-14(2,3)9-15(4,5)10-6-7-12(16)11(8-10)13(17)18;/h6-8,16H,9H2,1-5H3,(H,17,18);/q;+1/p-1
